US03991072
A solution of 47.5 parts of (-)-ethyl 1-(1-phenylethyl)-1H-imidazole-5-carboxylate sulfate in 500 parts of water is alkalized with 14 parts of a sodium hydroxide solution 50%. The product is extracted twice with 325 parts of dichloromethane. The combined extracts are dried, filtered and evaporated in vacuo. The residue is crystallized from 2,2'-oxybispropane, yielding (-)-ethyl 1-(1-phenylethyl)-1H-imidazole-5-carboxylate.

reactant | (-)-ethyl 1-(1-phenylethyl)-1H-imidazole-5-carboxylate sulfate | S(=O)(=O)(O)O.C1(=CC=CC=C1)C(C)N1C=NC=C1C(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | (-)-ethyl 1-(1-phenylethyl)-1H-imidazole-5-carboxylate | C1(=CC=CC=C1)C(C)N1C=NC=C1C(=O)OCC | C14H16N2O2
